* FDV303N ELECTRICAL MODEL (SOT-23 N-Ch DMOS)
.SUBCKT  FDV303N 20  10  30 
Rg     10    1    1 
M1      2    1    3   3   DMOS    L=1u   W=1u 
.MODEL DMOS NMOS (VTO={0.9*(-0.00232*TEMP+1.058)}  KP={-0.0005*TEMP+2.5}  THETA=0.096 + VMAX=3.8E5  LEVEL=3) 
Cgs     1    3    200p 
Rd     20    4    .12 TC=0.004 
Dds     3    4    DDS 
.MODEL     DDS    D(BV={25*(0.001*TEMP+0.975)}   M=0.36  CJO=23p   VJ=0.8) 
Dbody   3   20    DBODY 
.MODEL   DBODY    D(IS=1.4E-13   N=1   RS=40m   TT=100n) 
Ra      4    2    .12 TC=0.004 
Rs      3    5    10m 
Ls      5    30   .7n 
M2      1    8    6    6   INTER 
E2      8    6    4    1   2 
.MODEL   INTER    NMOS(VTO=0  KP=10   LEVEL=1) 
Cgdmax  7    4    140p 
Rcgd    7    4    10meg 
Dgd     6    4    DGD 
Rdgd    4    6    10meg 
.MODEL     DGD    D(M=0.65   CJO=140p   VJ=0.35) 
M3      7    9    1    1   INTER 
E3      9    1    4    1   -2 
.ENDS FDV303N 
* 101125/OKJ: Managed to get it running in LT-spice. Problems w. line breaks
* No guananty for correct operation